US08017610B2
(57a) 3,4-Difluoro-N,N-dimethylbenzenesulfonamide
Commercially available 3,4-difluorophenylsulfonylchloride (117 μL, 0.87 mmol) was dissolved in dichloromethane (5 mL), and dimethylamine hydrochloride (59 mg, 0.73 mmol) and triethylamine (203 μL, 1.45 mmol) were added, followed by stirring at room temperature for 2 hours. To the reaction solution, water (15 mL) was added, followed by extraction twice with dichloromethane (15 mL), and washing was carried out with saturated brine (15 mL), followed by drying over sodium sulfate. The solvent was distilled off under reduced pressure, followed by vacuum drying, to afford the desired compound (41.0 mg, yield 26%) as a colorless oil.

reactant | 3,4-difluorophenylsulfonylchloride | 0.87 mmol, 117 μL | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | dimethylamine hydrochloride | 0.73 mmol, 59 mg | Cl.CNC
reactant | triethylamine | 1.45 mmol, 203 μL | C(C)N(CC)CC | C6H15N
reactant | water | 15 mL | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3,4-Difluoro-N,N-dimethylbenzenesulfonamide | 41.0 mg, yield 26% | FC=1C=C(C=CC1F)S(=O)(=O)N(C)C | C8H9F2NO2S
